US04785019
Preparation of N-Cyanomethyl-N-(1,1,2,2-tetrachloroethylthio) trichloroacrylamide
A mixture of 5.0 g. (0.023 moles) N-cyanomethyl trichloroacrylamide (the product of Example 21) and 5.5 g (0.023 moles) 1,1,2,2-tetrachloroethyl-sulfenyl chloride in 75 ml methylene chloride were stirred together to give a clear solution. The resulting mixture was cooled in an ice bath; then 2.2 g (0.028 moles) pyridine in 25 ml methylene chloride were added over twenty minutes. The ice bath was removed; stirring was continued for 23 hours. (TLC monitored the course of the reaction). The reaction mixture was cooled again in an ice bath. Triethylamine, 2.4 g (0.024 moles) in 25 ml methylene chloride was added over fifteen minutes; the mixture was stirred for one hour. The solvent was stripped to give an oil. The oil was chromatographed on a column of 165 g silica gel and eluted with benzene to give 5.4 g of the above-identified product which slowly solidified on standing to give a solid which liquified at 70°-75° C.

reactant | N-cyanomethyl trichloroacrylamide | 0.023 moles | C(#N)CNC(C(=C(Cl)Cl)Cl)=O | C5H3Cl3N2O
reactant | 1,1,2,2-tetrachloroethyl-sulfenyl chloride | 0.023 moles, 5.5 g | ClC(C(Cl)Cl)(SCl)Cl | C2HCl5S
reactant | pyridine | 0.028 moles, 2.2 g | N1=CC=CC=C1 | C5H5N
reactant | Triethylamine | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 75 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
product | N-Cyanomethyl-N-(1,1,2,2-tetrachloroethylthio) trichloroacrylamide | 5.4 g | C(#N)CN(C(C(=C(Cl)Cl)Cl)=O)SC(C(Cl)Cl)(Cl)Cl | C7H3Cl7N2OS
